US07691882B2
2-Amino-6-methoxymethyl-nicotinic acid methyl ester
A mixture of 2-amino-6-chloro-nicotinic acid methyl ester (1.4 g, 7.6 mmol) described in Manufacturing Example 26-1-2, tributyl-methoxymethyl-stannane (3.1 g, 9.1 mmol) described in Manufacturing Example 26-1-3, tetrakis(triphenylphosphine)palladium (440 mg, 0.38 mmol) and N-methylpyrrolidinone (20 mL) was stirred for 3.5 hours at 130° C. The reaction mixture was cooled to room temperature, and aqueous potassium fluoride solution and ethyl acetate were added to the reaction mixture, which was then filtered through a Celite pad. The organic layer was separated and washed with saturated aqueous sodium chloride, and the solvent was evaporated under a reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:heptane=1:2) to obtain the title compound (0.93 g, 63%).

reactant | 2-amino-6-chloro-nicotinic acid methyl ester | 7.6 mmol, 1.4 g | COC(C1=C(N=C(C=C1)Cl)N)=O | C7H7ClN2O2
reactant | tributyl-methoxymethyl-stannane | 9.1 mmol, 3.1 g | C(CCC)[Sn](COC)(CCCC)CCCC
reactant | N-methylpyrrolidinone | 20 mL | CN1C(CCC1)=O | C5H9NO
reactant | potassium fluoride | [F-].[K+]
catalyst | tetrakis(triphenylphosphine)palladium | 0.38 mmol, 440 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Amino-6-methoxymethyl-nicotinic acid methyl ester | 0.93 g, 63% | COC(C1=C(N=C(C=C1)COC)N)=O | C9H12N2O3
